US05726306
(4) 5-chloro-α-(2,4,6-trimethoxyphenyl)-2-(neopentylamino)benzyl alcohol
After a solution of 2.5 g of 2-amino-5-chloro-α-(2,4,6-trimethoxyphenyl)benzyl alcohol, 1.01 ml of trimethylacetaldehyde and 0.56 g of acetic acid in 30 ml of ethanol was stirred at room temperature for 1.5 hours, 0.81 g of sodium cyanoborohydride was added, followed by stirring overnight. After concentration and subsequent dilution with water, the solution was extracted with ethyl acetate. After solvent removal, the residue was subjected to silica gel column chromatography to yield 2.2 g of a crystal.

reactant | 2-amino-5-chloro-α-(2,4,6-trimethoxyphenyl)benzyl alcohol | 2.5 g | NC1=C(C(C2=C(C=C(C=C2OC)OC)OC)O)C=C(C=C1)Cl | C16H18ClNO4
reactant | trimethylacetaldehyde | 1.01 ml | CC(C=O)(C)C | C5H10O
reactant | acetic acid | 0.56 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.81 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-chloro-α-(2,4,6-trimethoxyphenyl)-2-(neopentylamino)benzyl alcohol | 2.2 g | ClC=1C=CC(=C(C(C2=C(C=C(C=C2OC)OC)OC)O)C1)NCC(C)(C)C | C21H28ClNO4
